US08975282B2
Step 1) phenyl (4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)phenoxy)pyridin-2-yl)carbamate
A suspension of N-(4-((2-aminopyridin-4-yl)oxy)phenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (600 mg, 1.44 mmol) in DCM/pyridine (30 mL/20 mL) was cooled to 0° C., then a solution of phenylcarbonochloridate (565 mg, 3.61 mmol) in DCM (10 mL) was added to the mixture slowly over 1 hour. The reaction was stirred at rt for 2 hours, then diluted with DCM (200 mL). The mixture was washed with water (140 mL×4), followed by washing with brine (150 mL), dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The residue was purified by a silica gel column chromatography (DCM/EtOAc (v/v)=2/1) to give the title compound as a white solid (327 mg, 42%).

reactant | N-(4-((2-aminopyridin-4-yl)oxy)phenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 1.44 mmol, 600 mg | NC1=NC=CC(=C1)OC1=CC=C(C=C1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C23H21N5O3
reactant | phenylcarbonochloridate | 3.61 mmol, 565 mg | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
solvent | DCM pyridine | 30 mL | C(Cl)Cl.N1=CC=CC=C1
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | phenyl (4-(4-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)phenoxy)pyridin-2-yl)carbamate | 327 mg, 42% | CN1N(C(C(=C1C)C(=O)NC1=CC=C(OC2=CC(=NC=C2)NC(OC2=CC=CC=C2)=O)C=C1)=O)C1=CC=CC=C1 | C30H25N5O5
